US09120749B2
5-{4-[trans-4-Aminocyclohexylamino]-3-(cyclopropanecarbonyl)quinolin-6-yl}thiophene-2-carbonitrile
Following general procedure A-2, tert-butyl trans-4-[6-(5-cyanothiophen-2-yl)-3-(cyclopropane carbonyl)quinolin-4-ylamino]cyclohexylcarbamate (24 mg, 0.047 mmol) was reacted with TFA (2 mL) to afford the desired product (13.2 mg, 32%) as a yellow solid: 1H NMR (500 MHz, CD3OD) δ 9.25 (s, 1H), 8.54 (s, 1H), 8.27 (d, J=8.6 Hz, 1H), 7.98 (d, J=8.8 Hz, 1H), 7.85 (d, J=4.0 Hz, 1H), 7.70 (d, J=4.0 Hz, 1H), 4.28 (s, 1H), 3.28-3.25 (m, 1H), 2.89-2.83 (m, 1H), 2.42 (d, J=12.8 Hz, 2H), 2.23 (d, J=12.2 Hz, 2H), 1.80-1.63 (m, 4H), 1.27-1.21 (m, 2H), 1.19-1.13 (m, 2H); ESI MS m/z 417 [C24H24N4OS+H]+; HPLC 95.1% (AUC), tR=10.32 min.

reactant | tert-butyl trans-4-[6-(5-cyanothiophen-2-yl)-3-(cyclopropane carbonyl)quinolin-4-ylamino]cyclohexylcarbamate | 0.047 mmol, 24 mg | C(#N)C1=CC=C(S1)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C29H32N4O3S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-{4-[trans-4-Aminocyclohexylamino]-3-(cyclopropanecarbonyl)quinolin-6-yl}thiophene-2-carbonitrile | 13.2 mg, 32% | N[C@@H]1CC[C@H](CC1)NC1=C(C=NC2=CC=C(C=C12)C1=CC=C(S1)C#N)C(=O)C1CC1 | C24H24N4OS
